US06232310B1
5,7-Difluoro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
5,7-Difluoro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide N-(2-Cyanomethylsulfonyl-4,6-difluoro-phenyl)acetamide (0.83 g) was dissolved in 0.5 M NaOH (10 ml) at room temperature. After 1 h the mixture was filtered. The filtrate was cooled to 0° C. and 1M HCl (7.5 ml) was added. After 10 min at 0° C. a white precipitate was isolated by filtration, washed with water (5 ml) and dried. Recrystallization from methanol gave the pure title compound as voluminous white needles. Yield 0.39 g (49%); mp 289-290° C.; 1H-NMR (DMSO-d6), δ (ppm): 11.9 (br s, 1H, NH), 8.03-7.73 (m, 2H), 2.50 (s, CH3+DMSO), IR (KBr) ν (cm−1): 3260 (NH), 2216 (C≡N).

reactant | 5,7-Difluoro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide N-(2-Cyanomethylsulfonyl-4,6-difluoro-phenyl)acetamide | 0.83 g | C(#N)CS(=O)(=O)C1=C(C(=CC(=C1)F)F)NC(C)=O.FC1=CC(=CC2=C1NC(=C(S2(=O)=O)C#N)C)F
solvent | NaOH | 0.5 M, 10 ml | [OH-].[Na+]
product | 5,7-Difluoro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | FC1=CC(=CC2=C1NC(=C(S2(=O)=O)C#N)C)F | C10H6F2N2O2S
